US04412082
In a 100 ml four-necked flask, there were placed 3.2 g of water, 1.23 g (0.025 mole) of sodium cyanide and 0.16 g of triethylbenzylammonium chloride, and a solution prepared by dissolving 5.3 g (0.023 mole) of 4-benzyloxybenzyl chloride in 6 g of benzene was further added thereto under stirring. Then, the resultant mixture was heated at a temperature of 80° C. for 5 hours under stirring to permit a reaction. After completion of the reaction, the formed organic layer is washed with water and dried over anhydrous sodium sulfate, followed by distilling off benzene to obtain 4.83 g (0.022 mole) of 4-benzyloxyphenylacetonitrile.

reactant | water | 3.2 g | O | H2O
reactant | sodium cyanide | 0.025 mole, 1.23 g | [C-]#N.[Na+]
reactant | 4-benzyloxybenzyl chloride | 0.023 mole, 5.3 g | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
catalyst | triethylbenzylammonium chloride | 0.16 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | benzene | 6 g | C1=CC=CC=C1 | C6H6
product | 4-benzyloxyphenylacetonitrile | 0.022 mole, 4.83 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC#N | C15H13NO
